US06022987
In the same apparatus and procedures as EXAMPLE 2 above, 18.8 ml (200 mmol) of fluorobenzene and 0.31 g (2.3 mmol) of aluminum chloride were alkylated with 5.61 g (22.8 mmol) of (2,3-dichloropropyl)trichlorosilane for 10 min at 70° C. The aluminum chloride catalyst was quenched with POCl3 and then stirred for another 1 hour to complete the deactivation. Freshly distilled hexane (50 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic soultion. After hexane and fluorobenzene were distilled, the reaction products were vacuum distilled to give 3.39 g of [3,3-bis(fluorophenyl)propyl]trichlorosilane (bp; 121-122° C./0.5 torr, yield; 41%) as a mixutre of isomers.

reactant | fluorobenzene | 200 mmol, 18.8 ml | FC1=CC=CC=C1 | C6H5F
reactant | aluminum chloride | 2.3 mmol, 0.31 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (2,3-dichloropropyl)trichlorosilane | 22.8 mmol, 5.61 g | ClC(C[Si](Cl)(Cl)Cl)CCl | C3H5Cl5Si
product | [3,3-bis(fluorophenyl)propyl]trichlorosilane | 3.39 g, yield; 41% | FC1=C(C=CC=C1)C(CC[Si](Cl)(Cl)Cl)C1=C(C=CC=C1)F | C15H13Cl3F2Si
